US04616015
Benzaldehyde (0.25 g) was added to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.48 g) in methanol (45 ml), and the mixture was stirred for 1.5 hours at room temperature. Acetic acid (0.13 ml) was added thereto and then a solution of sodium cyanoborohydride (0.1 g) in methanol (0.7 ml) was added dropwise with stirring. After adding, the reaction mixture was warmed at 50° C. for 2 hours under stirring and evaporated in vacuo. An aqueous solution of sodium bicarbonate was added to the residue and the mixture was triturated to give 6-(4-benzylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.68 g).

reactant | Benzaldehyde | 0.25 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.48 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | Acetic acid | 0.13 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.1 g | C(#N)[BH3-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
solvent | methanol | 0.7 ml | CO | CH4O
product | 6-(4-benzylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.68 g | C(C1=CC=CC=C1)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C17H18N4O
